2196-02-26 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 83M with a PMH s/f advanced
   dementia, and recurrent aspirations, who presents with fevers in the
   setting of a presumed aspiration event, SBO, and a UTI.
   24 Hour Events:
   - Vanco stopped for morbilliform rash
   - surgery said J-tube fine, no need for IR studies
   - PICC not done, will try tomorrow
   - Surgery: cont NGT/NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-2-25**] 04:16 AM
   Vancomycin - [**2196-2-25**] 06:27 AM
   Piperacillin - [**2196-2-26**] 06:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-2-25**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 86 (67 - 90) bpm
   BP: 133/63(78) {89/35(48) - 133/84(88)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,085 mL
                                                                    600 mL
   PO:
             TF:
   IVF:
                                                                  4,085 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    637 mL
   Urine:
                                                                  1,435 mL
                                                                    362 mL
   NG:
   275 mL
   Stool:
   Drains:
   Balance:
                                                                  6,650 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   9.9 g/dL
   115 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   28 mg/dL
   113 mEq/L
   145 mEq/L
   29.7 %
   17.5 K/uL
        [image002.jpg]
                             [**2196-2-25**]  04:00 AM
                             [**2196-2-26**]  12:20 AM
   WBC
   26.1
   17.5
   Hct
   36.4
   29.7
   Plt
   287
   224
   Cr
   1.2
   0.9
   Glucose
   174
   115
   Other labs: PT / PTT / INR:15.2/26.7/1.3, Differential-Neuts:82.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a UTI.
   .
   #. Sepsis: Patient meets SIRS criteria with fevers, leukocytosis,
   bandemia, tachycardia, and tachypnea.  Also with signs of hypoperfusion
   with elevated lactate and transient hypotension.  Currently
   normotensive after 4L of NS.  Suspected sources are
   aspiration/health-care associated pneumonia, UTI, and thickened bowel.
   Prior cultures reveal h/o pseudomonas in the sputum, and pan-sensitive
   enterococcus in the urine.
   -Bolus NS for hypotension, will hold off on central access for now, as
   patient is normotensive.
   -zosyn for coverage of health-care associated PNA.  This will also
   cover an aspiration event and his UTI.
   -Obtain sputum cultures, will attempt to narrow coverage based on
   culture data.
   -Follow lactates
   -F/u blood and urine cultures
   .
   #. SBO: Evaluated by surgery and felt to not be a surgical candidate.
   Likely related to segment of bowel wall thickening, which could be
   infectious, ischemic, or inflammatory in nature.
   -Hold tube feeds/bowel rest
   -IVF boluses
   -NGT decompression, will maintain wall suction
   -F/u surgical recs
   -Serial abdominal exams
   -Hold bowel regimen
   .
   #. Seizure disorder: continue home regimen of phenobarb
   .
   #. Dementia: stable at baseline
   .
   #. Chronic aspiration: continue home scopolamine and nebulizers.
   .
   FEN: Bowel rest, IV maintenance fluids
   .
   PPX:
   -DVT ppx with SC heparin
   -PPI
   .
   ACCESS: 2 PIV's
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: [**Name (NI) 424**] [**Name (NI) **], brother and [**Telephone/Fax (1) 8327**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-2-25**] 03:39 AM
   20 Gauge - [**2196-2-25**] 03:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-27 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 83M with a PMH s/f advanced
   dementia, and recurrent aspirations, who presents with fevers in the
   setting of a presumed aspiration event, SBO, and a UTI.
   24 Hour Events:
 PICC LINE - START [**2196-2-26**] 08:00 PM
   D/c
ed NGT, tolerated well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-2-25**] 06:27 AM
   Piperacillin - [**2196-2-26**] 06:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-2-27**] 05:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-2-27**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 69 (69 - 98) bpm
   BP: 117/47(64) {98/39(54) - 143/84(92)} mmHg
   RR: 19 (16 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    840 mL
                                                                    322 mL
   PO:
             TF:
   IVF:
                                                                    750 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,262 mL
                                                                    345 mL
   Urine:
                                                                    987 mL
                                                                    345 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                    -23 mL
   Respiratory support
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   GENERAL: Eldery man, non-toxic appearing, NAD.  Says Hello., A+Ox1
   (name)
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM.
   OP clear.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**].  JVP=7cm
   LUNGS: Patient has audible secretions, with a weak cough.  Chest
   expands symmetrically. No wheezes
   ABDOMEN: Soft, NT, minimal distention.  No HSM.
   EXTREMITIES: Contracted, warm, well-perfused with 2+ bilateral radial
   and DP pulses.  No C/c/e
   SKIN: Sacral decubitus ulcer.
   Labs / Radiology
   231 K/uL
   10.1 g/dL
   92 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   19 mg/dL
   113 mEq/L
   147 mEq/L
   31.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2196-2-25**]  04:00 AM
                             [**2196-2-26**]  12:20 AM
                             [**2196-2-26**]  03:16 PM
                             [**2196-2-27**]  04:39 AM
   WBC
   26.1
   17.5
   16.1
   Hct
   36.4
   29.7
   33.2
   31.0
   Plt
   287
   224
   231
   Cr
   1.2
   0.9
   0.7
   Glucose
   174
   115
   92
   Other labs: PT / PTT / INR:15.2/26.7/1.3, Differential-Neuts:82.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a UTI.
   #. Sepsis: On admission the patient met SIRS criteria with fevers,
   leukocytosis, bandemia, tachycardia, and tachypnea.
   -Zosyn for ileitis/ HAP x7days
   - Vanco d/c
ed secondary to morbilloform rash
   -f/u micro
   #. SBO: Evaluated by surgery and felt to not be a surgical candidate.
   Likely related to segment of bowel wall thickening, which could be
   infectious, ischemic, or inflammatory in nature.
   -NGT d/c
ed on [**2196-2-26**], pt tolerated well.
   -F/u surgical recs
   -Serial abdominal exams
   -Hold bowel regimen
   - c.diff pending
   #. Seizure disorder: continue home regimen of phenobarb
   #. Dementia: stable at baseline
   #. Chronic aspiration: continue home scopolamine and nebulizers.
   FEN: Bowel rest, IV maintenance fluids
   PPX:
   -DVT ppx with SC heparin
   -PPI
   ACCESS: 2 PIV's, PICC in place
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 424**] [**Name (NI) **], brother and [**Telephone/Fax (1) 8327**]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-2-25**] 03:39 AM
   PICC Line - [**2196-2-26**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-28 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - didn't get called out because requiring frequent suctioning,
   otherwirse ready to go
   - Blood cultures: [**12-27**] GPC in clusters (MRSA screen neg) - concerning as
   we had just taken off Vancomycin for rash, but continues to clinically
   improve, afebrile, leukocytosis improving.
   - Tubefeeds restarted, tolerated well
   - Hypernatremic this AM to 152 which is 3.5 L free water loss. If
   planning to correct in 1 day, would need 150ml of free water via
   feeding tube every hour - since this happened slowly, there's no rush -
   I started him on 150ml every 2 hours. Can increase if pt tolerates and
   ok with team/nursing.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-2-26**] 06:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-2-28**] 06:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-2-27**] 11:21 PM
   Other medications:
   1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN  Order date: [**2-25**] @ 0338
   6. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**2-25**] @ 1210
   2. Heparin 5000 UNIT SC TID  Order date: [**2-25**] @ 0312 7. PHENObarbital
   60 mg PO BID
   Crushed into NG tube  Order date: [**2-25**] @ 0338
   3. IV access request: PICC Place Indication: Antibiotics Urgency:
   Urgent Order date: [**2-25**] @ 1803 8. Piperacillin-Tazobactam Na 2.25 g IV
   Q6H  Order date: [**2-25**] @ 0312
   4. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**2-25**] @ 0306 9. Potassium Chloride 20 mEq PO ONCE Duration: 1 Doses
   Order date: [**2-28**] @ 0631
   5. Ipratropium Bromide Neb 1 NEB IH Q6H  Order date: [**2-25**] @ 0338 10.
   Scopolamine Patch 1 PTCH TP Q72H  Order date: [**2-25**] @ 0338
   Flowsheet Data as of  [**2196-2-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 66 (63 - 81) bpm
   BP: 118/59(73) {110/41(58) - 150/73(89)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,073 mL
                                                                    598 mL
   PO:
             TF:
                                                                    233 mL
                                                                    277 mL
   IVF:
                                                                    840 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,237 mL
                                                                    510 mL
   Urine:
                                                                  1,237 mL
                                                                    310 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -164 mL
                                                                     88 mL
   Physical Examination
   GENERAL: Eldery man, non-toxic appearing, NAD.  Says Hello., A+Ox1
   (name)
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM.
   OP clear.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**].  JVP=7cm
   LUNGS: Patient has audible secretions, with a weak cough.  Chest
   expands symmetrically. No wheezes
   ABDOMEN: Soft, NT, minimal distention.  No HSM.
   EXTREMITIES: Contracted, warm, well-perfused with 2+ bilateral radial
   and DP pulses.  No C/c/e
   SKIN: Sacral decubitus ulcer.
   Labs / Radiology
   255 K/uL
   10.3 g/dL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   114 mEq/L
   152 mEq/L
   32.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2196-2-25**]  04:00 AM
                             [**2196-2-26**]  12:20 AM
                             [**2196-2-26**]  03:16 PM
                             [**2196-2-27**]  04:39 AM
                             [**2196-2-28**]  04:12 AM
   WBC
   26.1
   17.5
   16.1
   13.4
   Hct
   36.4
   29.7
   33.2
   31.0
   32.2
   Plt
   287
   224
   231
   255
   Cr
   1.2
   0.9
   0.7
   0.7
   Glucose
   174
   115
   92
   105
   Other labs: PT / PTT / INR:15.2/26.7/1.3, Differential-Neuts:82.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a UTI.
 SEPSIS WITHOUT ORGAN DYSFUNCTION - On admission the patient met SIRS
   criteria with fevers, leukocytosis, bandemia, tachycardia, and
   tachypnea.  Blood cultures now with
 Gram positive cocci in clusters,
   MRSA screen neg
   -Zosyn for ileitis/ HAP x7days
   - Vanco d/c
ed secondary to morbilloform rash
   - as pt continues to clinically improve
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS) Evaluated by surgery and felt to not be a
   surgical candidate.  Likely related to segment of bowel wall
   thickening, which could be infectious, ischemic, or inflammatory in
   nature.
   -NGT d/c
ed on [**2196-2-26**], pt tolerated well.
   -F/u surgical recs
   -Serial abdominal exams
   -Hold bowel regimen
   - c.diff pending
   #. Hypernatremia: Na slowly increasing
 140 on admission, 152 this AM
 3.5 L free water deficit. Mental status unchanged. Does not appear to
   be hypovolemic. If can tolerate free water via feeding tube, will
   replete that way. Otherwise will need hypotonic fluids.
   - for now will try 150ml free water q2 hrs. (this will correct half of
   his free water deficit)
   - if increases secretions/suction need will switch to IV fluids
   #. Seizure disorder: continue home regimen of phenobarb
   #. Dementia: stable at baseline
   #. Chronic aspiration: continue home scopolamine and nebulizers.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2196-2-28**] 06:18 AM 40 mL/hour with free
   water q2
   Glycemic Control:
   Lines:
   PICC Line - [**2196-2-26**] 08:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   Communication:  [**Name (NI) 424**] [**Name (NI) **], brother and [**Telephone/Fax (1) 8327**]
   Code status: Full code
   Disposition:

2196-02-29 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 83M with a PMH s/f advanced
   dementia, and recurrent aspirations, who presents with fevers in the
   setting of a presumed aspiration event, SBO, and a UTI.
   24 Hour Events:
 URINE CULTURE - At [**2196-2-29**] 12:26 AM
   - purulent discharge coming from penis - checking UA, chlamiya/GC urine
   pcr
   - c.diff, sputum cx shows sparse growth of 3 G(-)rods in addition to
   psuedomonas (orophyrngeal flora absent)
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2196-2-26**] 06:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-2-29**] 05:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-2-29**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-29**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 61 (55 - 74) bpm
   BP: 133/60(77) {102/39(54) - 166/74(90)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                 11,302 mL
                                                                  2,041 mL
   PO:
             TF:
                                                                  9,712 mL
                                                                  1,169 mL
   IVF:
                                                                    361 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,364 mL
                                                                    420 mL
   Urine:
                                                                  1,014 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  9,938 mL
                                                                  1,621 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   9.6 g/dL
   142 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   17 mg/dL
   112 mEq/L
   144 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2196-2-25**]  04:00 AM
                             [**2196-2-26**]  12:20 AM
                             [**2196-2-26**]  03:16 PM
                             [**2196-2-27**]  04:39 AM
                             [**2196-2-28**]  04:12 AM
                             [**2196-2-28**]  06:19 PM
                             [**2196-2-29**]  03:41 AM
   WBC
   26.1
   17.5
   16.1
   13.4
   12.5
   Hct
   36.4
   29.7
   33.2
   31.0
   32.2
   28.2
   Plt
   287
   224
   231
   255
   218
   Cr
   1.2
   0.9
   0.7
   0.7
   0.7
   0.6
   Glucose
   174
   115
   92
   105
   151
   142
   Other labs: PT / PTT / INR:15.2/26.7/1.3, Differential-Neuts:82.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a UTI.
 SEPSIS WITHOUT ORGAN DYSFUNCTION - On admission the patient met SIRS
   criteria with fevers, leukocytosis, bandemia, tachycardia, and
   tachypnea.  Blood cultures now with
 Gram positive cocci in clusters,
   MRSA screen neg
   -Zosyn for ileitis/ HAP x7days
   - Vanco d/c
ed secondary to morbilloform rash
   - as pt continues to clinically improve
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS) Evaluated by surgery and felt to not be a
   surgical candidate.  Likely related to segment of bowel wall
   thickening, which could be infectious, ischemic, or inflammatory in
   nature.
   -NGT d/c
ed on [**2196-2-26**], pt tolerated well.
   -F/u surgical recs
   -Serial abdominal exams
   -Hold bowel regimen
   - c.diff pending
   # Abdominal pain
 diffuse and new today, in setting of Vanc Zosyn.
   Stool appears green, concerning for C Diff.
   Yesterday
s C diff still pending, will recheck and start empiric
   treatment with Flagyl.
   - f/u C Diff
   #. Hypernatremia: Na slowly increasing
 140 on admission, 152 this AM
 3.5 L free water deficit. Mental status unchanged. Does not appear to
   be hypovolemic. If can tolerate free water via feeding tube, will
   replete that way. Otherwise will need hypotonic fluids.
   - for now will try 100ml free water q2 hrs. (this will free water
   deficit over 3 days)
   - if increases secretions/suction need will switch to IV fluids
   #. Seizure disorder: continue home regimen of phenobarb
   #. Dementia: stable at baseline
   #. Chronic aspiration: continue home scopolamine and nebulizers.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2196-2-29**] 03:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2196-2-26**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 424**] [**Name (NI) **], brother and
   [**Telephone/Fax (1) 8327**]
   Code status: Full code
   Disposition:

2196-03-01 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a UTI.
   24 Hour Events:
   - Less frequent suctioning (q3h)
   - STD w/u for penile discharge negative
   Allergies:
   Vancomycin - Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-3-1**] 05:05 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-3-1**] 12:31 AM
   Other medications:
   1. Acetaminophen 325-650 mg PO/NG Q6H:PRN
   2. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN
   4. MetRONIDAZOLE (FLagyl) 500 mg NG Q8H
   5. Heparin 5000 UNIT SC TID
   6. PHENObarbital 60 mg PO BID
   7. Piperacillin-Tazobactam Na 2.25 g IV Q6H
   8. Scopolamine Patch 1 PTCH TP Q72H
   9. Ipratropium Bromide Neb 1 NEB IH Q6H
   Flowsheet Data as of  [**2196-3-1**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.7
C (96.3
   HR: 72 (56 - 79) bpm
   BP: 115/54(80) {89/35(48) - 143/81(90)} mmHg
   RR: 25 (17 - 25) insp/min
   SpO2: 99% on face tent
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,503 mL
                                                                  1,451 mL
   PO:
             TF:
                                                                  2,096 mL
                                                                    857 mL
   IVF:
                                                                    737 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    308 mL
   Urine:
                                                                    920 mL
                                                                    308 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,333 mL
                                                                  1,143 mL
   Physical Examination
   GENERAL: Eldery man, non-toxic appearing, NAD.  Says Hello., A+Ox1
   (name)
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. MMM.
   OP clear.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1792**].  JVP=7cm
   LUNGS: Patient has audible secretions, with a weak cough.  Chest
   expands symmetrically. No wheezes
   ABDOMEN: Soft, NT, minimal distention.  No HSM.
   EXTREMITIES: Contracted, warm, well-perfused with 2+ bilateral radial
   and DP pulses.  No C/c/e
   SKIN: Sacral decubitus ulcer.
   Labs / Radiology
   215 K/uL
   10.2 g/dL
   149 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   29.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2196-2-25**]  04:00 AM
                             [**2196-2-26**]  12:20 AM
                             [**2196-2-26**]  03:16 PM
                             [**2196-2-27**]  04:39 AM
                             [**2196-2-28**]  04:12 AM
                             [**2196-2-28**]  06:19 PM
                             [**2196-2-29**]  03:41 AM
                             [**2196-3-1**]  04:26 AM
   WBC
   26.1
   17.5
   16.1
   13.4
   12.5
   13.5
   Hct
   36.4
   29.7
   33.2
   31.0
   32.2
   28.2
   29.6
   Plt
   287
   224
   231
   255
   218
   215
   Cr
   1.2
   0.9
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   174
   115
   92
   105
   151
   142
   149
   Other labs: PT / PTT / INR:15.2/26.7/1.3, Differential-Neuts:82.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:3.0 g/dL, Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 83M with a PMH s/f advanced dementia, and recurrent
   aspirations, who presents with fevers in the setting of a presumed
   aspiration event, SBO, and a ?UTI.
 SEPSIS WITHOUT ORGAN DYSFUNCTION - On admission the patient met SIRS
   criteria with fevers, leukocytosis, bandemia, tachycardia, and
   tachypnea.  Blood cultures now with
 Gram positive cocci in clusters
   (peptostreptococcus), MRSA screen neg
   -Zosyn for ileitis/ HAP x7days (day [**5-29**])
   - Vanco d/c
ed secondary to morbilloform rash
 SMALL BOWEL OBSTRUCTION - Evaluated by surgery and felt to not be a
   surgical candidate.  Likely related to segment of bowel wall
   thickening, which could be infectious, ischemic, or inflammatory in
   nature.
   -NGT d/c
ed on [**2196-2-26**], pt tolerated well.
   -F/u surgical recs
   -Serial abdominal exams
   -Hold bowel regimen
   - c.diff negative x2, d/c flagyl
   #. Urinary discharge: STD workup negative, U cultures negative.
   #. Hypernatremia: Na slowly increasing
 140 on admission, peaked at
   152 and improved with free water boluses.
   #. Seizure disorder: continue home regimen of phenobarb
   #. Dementia: stable at baseline
   #. Chronic aspiration: continue home scopolamine and nebulizers.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2196-3-1**] 04:20 AM 60 mL/hour
   Lines:
   PICC Line - [**2196-2-26**] 08:00 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   Communication:  [**First Name4 (NamePattern1) 424**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition: